US05958375
a. N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea
N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]urea (1.23 g, 1.0 mmol) was dissolved in a mixture of acetic anhydride (5 ml), pyridine (5.5 ml) and DMF (5 ml). The solution was stirred at room temperature for 65 h, and the solvents were evaporated. The residue was dissolved in CH2Cl2 (250 ml) and the solution was washed with water (2×50 ml) 0.1M aqueous HCl (50 ml), water (100 ml) and a saturated aqueous solution of NaHCO3. After drying (Na2SO4) and evaporation, NMR and HPLC analysis of the residue showed an essentially pure product. Yield: 1.0 g (71%).

reactant | N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]urea | 1.0 mmol, 1.23 g | NC=1C(=C(C(=C(C1I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)N)I)I | C21H22I6N6O7
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5.5 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea | NC=1C(=C(C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)N)I)I | C29H30I6N6O11
